Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right shoulder pain 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI:  
 Mr. ___ is a ___ year old man with no significant past 
medical history, who is presenting with the chief complaint of 
right shoulder pain. The patient also shares that he has had 3 
weeks of fatigue, arthralgias, and generally feeling poor.  
 The patient shares that about 3 weeks ago he went to his PCP 
for ___ standard physical exam, and at this time he was told he 
had elevated LFTs: ALT 49, AST 53, ALP 75, Bili 0.33, negative 
hepatitis C IgG. He says at this time he felt well, but shortly 
after (the same day of his appointment) he noticed he was having 
dull abdominal pain. He goes on to explain that he was actually 
having pain throughout his entire body. He began feeling 
fatigued and generally ill. He believes he had low grade fevers 
without chills, but did not take his temperature. He was also 
having diarrhea and nausea without vomiting. His appetite has 
been decreased during this period of time, and he believes he 
has lost about 7 lbs. He was also having mild shortness of 
breath at all times. All of these symptoms have persisted over 
the past 3 weeks, and have been worsening; his stools wax and 
wane from soft formed to loose watery stools.  
 Over this same period of time, he has had diffuse arthralgias. 
He shares his right knee has been swollen and painful during 
this time period, and he feels like there is fluid in it. There 
has been erythema or warmth of the knee, and he said has been 
able to ambulate and weight bear. He also has right posterior 
shoulder pain, which was the reason he presented to the ED on 
the day of presentation. The pain was worse with movement and he 
felt stiff, and believes there may have been swelling. Similarly 
to the knee, he did not notice erythema or warmth. He shares he 
has also had some pain in his bilateral elbows and hands, but is 
unsure if this is new over the past 3 weeks or his usual joint 
pain.  
 
 In the ED, initial vitals were: 98.6 107 141/82 20 97RA. Exam 
was notable for "possible small effusion of right knee...no 
joint tenderness or erythema." Labs were notable for ALT 215, 
ALT 151, ALP 265, Bili 1.6, Cr 0.9, Hb 13.6, Platelets 194, no 
coags, negative hepatitis B antigen and positive IgG, negative 
hepatitis A IgM, negative hepatitis C IgG, normal UA. He had a 
RUQ US that showed cholelithiasis without other signs of acute 
cholecystitis.  
 
 Upon arrival to the floor, the patient said today is the first 
day he is starting to feel better. He was hungry for dinner and 
does not have nausea. He gives the above history, and adds that 
he has had no recent travel. He does live in a wooded area, but 
has not noticed any ticks or bites. He has no pets. He has had 
one sexual partner in the past year, with first sexual encounter 
9 weeks ago. He has no dysuria or penile lesions or discharge. 
He has not noticed rectal lesions or pain with defecation. The 
only relatively new medication is Viagra. He drinks social 
alcohol (one ___ every ___ weeks) and smokes marijuana, 
but has no history of IVDU. He says a few people have been sick 
at work with "stomach bugs" but nothing like what he is 
experiencing. He has never felt like this before.  
 ROS:  
 as Per HPI.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
 Orthopedic surgery to right knee  
 Erectile dysfunction  
 MEDICATIONS:  
 Viagra prn  
 
 
Social History:
___
Family History:
 Father: irregular heart beat, deceased of pancreatic cancer at 
___  
 Mother: hypertension, type 2 diabetes, breast cancer, colon 
cancer  
 
Physical Exam:
Admission Exam 
=============
Vital Signs: 99.8 152/75 90 18 100 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses; right knee somewhat larger 
than left, no warmth, no pain with active and passive ROM, 
healed right knee vertical incision; full right shoulder ROM 
with no pain with active or passive ROM; finger joints, elbow 
joints with no edema or erythema  
 Skin: no rashes, no jaundice, no tick bites on 
back/chest/arms/lower legs (did not visualize thighs)  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred; no asterixis.  

Discharge exam 
================
Vitals: T: 97.6  BP: 149/80 P: 90  R: 18  O2: 100% RA
General: Alert, oriented, comfortable, communicative  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, nontender, JVP not elevated. Mild bilateral 
submandibular LAD, nontender.   
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, loud S1 at LLSB, no murmurs, rubs, 
gallops.  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Right shoulder not tender to palpation. Slight pain on 
active and passive ROM, primarily with internal rotation. Full 
ROM. 
Knee: Right knee mildly larger than left. No tenderness to 
palpation. Nonerythematous, normal temperature. Surgical scar 
over anterior aspect. No effusion noted. 
Skin: Mildly erythematous spotted patches over LLQ and RLQ 
Neuro: Alert, oriented, communicative. 

 
Pertinent Results:
Admission Labs
=================

___ 03:30PM BLOOD WBC-8.2 RBC-4.46* Hgb-13.6* Hct-41.0 
MCV-92 MCH-30.5 MCHC-33.2 RDW-14.3 RDWSD-48.3* Plt ___
___ 03:30PM BLOOD Neuts-21* Bands-0 Lymphs-63* Monos-11 
Eos-0 Baso-0 Atyps-5* ___ Myelos-0 AbsNeut-1.72 
AbsLymp-5.58* AbsMono-0.90* AbsEos-0.00* AbsBaso-0.00*
___ 03:30PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 03:30PM BLOOD Plt Smr-NORMAL Plt ___
___ 09:28AM BLOOD ___ PTT-35.7 ___
___ 03:30PM BLOOD Glucose-186* UreaN-15 Creat-0.9 Na-138 
K-3.8 Cl-103 HCO3-22 AnGap-17
___ 03:30PM BLOOD ALT-215* AST-151* AlkPhos-265* 
TotBili-1.6*
___ 03:30PM BLOOD Albumin-3.5
___ 09:28AM BLOOD TotProt-8.3 Albumin-3.4* Globuln-4.9* 
Calcium-9.1 Phos-3.0 Mg-2.2 UricAcd-6.7 Iron-122
___ 09:28AM BLOOD calTIBC-299 Ferritn-835* TRF-230

Discharge Labs:
=======================

___ 08:40AM BLOOD WBC-7.2 RBC-4.57* Hgb-13.9 Hct-43.0 
MCV-94 MCH-30.4 MCHC-32.3 RDW-14.6 RDWSD-50.8* Plt ___
___ 08:40AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:40AM BLOOD Plt Smr-NORMAL Plt ___
___ 08:40AM BLOOD Glucose-107* UreaN-18 Creat-0.8 Na-137 
K-4.2 Cl-102 HCO3-24 AnGap-15
___ 08:40AM BLOOD ALT-157* AST-90* AlkPhos-259* TotBili-1.0
___ 08:40AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.1
-Positive ___ 1:20
-Negative AMA
-Negative ___
-SPEP: pending
-HIV Ab negative
-TTG-IgA: 34 (upper range of normal 30)
-HBsAg negative, HBsAb positive, HBcAb negative, HAV negative, 
HAV IgM negative
-Ceruloplasmin: negative
-ALKM: pending
-Anaplasma: negative
- Erlichia: negative

Imaging:
========================
-Shoulder XRay ___: Moderate degenerative change in the AC 
joint and mild in the glenohumeral 
joint.  No fracture or dislocation. 
-R knee ultrasound: Moderate degenerative change in the AC joint 
and mild in the glenohumeral 
joint.  No fracture or dislocation. 
-CXR ___: Heart size is normal.  The mediastinal and hilar 
contours are normal. The pulmonary vasculature is normal. Lungs 
are clear.  No pleural effusion or pneumothorax is seen. There 
are no acute osseous abnormalities. 
-RUQUS ___: Cholelithiasis without other signs of acute 
cholecystitis. 
  
Microbiology:
============================
HIV VL negative
CMV VL negative
EBV IgM positive
EBV IgG negative
CMV Ab negative
RPR negative
Chlamydia negative
Lyme negative
EBV VL pending
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with no significant past 
medical history, presenting right shoulder pain X3 days in the 
setting of fatigue, dyspepsia, arthralgias, general malaise and 
worsening transaminitis over 3 weeks, found to have ***

#acute/subacute liver injury without liver failure: 
On presentation he had elevated AST, ALT, ALP, Tbili, which had 
worsened since initial finding three weeks ago, concerning for 
acute hepatitis without signs of liver failure. DDx of elevated 
markers was broad; given findings of AST>ALT, broadly elevated 
markers, and initial presentation with three days' 
fever/chills/arthralgias, infectious etiology (viral vs. 
tick-borne vs. other) was thought to be the most likely 
etiology. Autoimmune etiology was also considered given 
arthalgias and variable constitutional symptoms, though lack of 
prior history maked this somewhat less likely. Additional 
consideration included  celiac disease, gonorrhea/chlamydia 
(arthalgias + new sexual partner), hemochromatosis, ___ 
disease. Acute viral hepatitis unlikely given negative labs and 
mid-range LFT elevation. Clinical history not consistent with 
EtOH/drug/toxin mediated etiology. RUG US imaging unremarkable 
for obstructive pathology. His mental status was never altered 
during hospitalization.  Coags and ___ enzymes were trended 
daily and workup included: HIV, EBV, CMV, Gonorrhea, Chlamydia, 
Anti-LK, ___, Anti-mitochondrial, Anaplasma, Lyme, 
Ehrlichia, Parasite Smear, Iron/Ferritin, Ceruloplasm, TTG 
assay. Test results returned with positive EBV IgM.  Patient was 
counseled on avoiding contact, sharing of liquids and risk of 
splenic rupture.  His LFTs were trended and improving at time of 
discharge.

#Right shoulder pain:  
Initially unclear if pain was due to localized shoulder pain or 
referred pain from inflammation of diaphragm ___ to liver 
injury. RUQ US did not suggest that he has an enlarged liver 
that would cause diaphragmatic irritation; however, pain was 
described as constant and non-responsive to positional change or 
home NSAID use, which would support referred etiology. Pain 
improved without pain medication the first day. He was given 
NSAIDS PRN.

#Lymphocytosis
Presented with a relative/absolute lymphocytosis with 5 atypical 
lymphocytes likely ___ acute EBV. Possibly consistent with viral 
etiology, as discussed above. Malignancy less likely given no 
night sweats/LAD/unexplained weight loss. 
 
#Right knee swelling:  
 Pain was not secondary to recent injury. It was unclear if 
related to other symptoms. ___ have been exacerbation of prior 
MVC accident. THe joint was not erythematous or warm, low 
concern for septic joint. US of the knee showed no drainable 
fluid to evaluate for fluid and diagnostic tap if pain 
continues.  

#Dyspnea:  
 Patient reported dyspnea over past few weeks, with no chest 
pain. Lungs were clear on exam and he was breathing comfortably. 
Thought that may be secondary to generally ill/fatigued state.  
CXR was normal.

#RBBB:  ECG in ED showed RBBB with left vs extreme right (lead 
placement?) axis deviation. Currently asymptomatic. He was 
monitored through the hospital stay and remained asymptomatic.  
 

Transitional Issues 
=======================
- Patient discharge to f/u with PCP for repeat LFTs
- Please monitor shoulder exam consider MRI if clinically 
indicated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Viagra (sildenafil) 25 mg oral prn 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth q6 hr prn Disp #*5 
Capsule Refills:*0 
3.  Viagra (sildenafil) 25 mg oral prn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute liver injury, EBV viremia
Secondary: musculoskeletal R shoulder pain, R knee 
pain/swelling, RBBB

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  You were admitted to the hospital with right scapular pain and 
labs that showed damage to your liver. An extensive list of 
tests show that the cause of the liver damage was due to the EBV 
virus, which causes mononucleosis. This can affect your liver. 
We found that your liver numbers improved prior to you being 
discharged. 

You will need to follow up with your PCP for ___ number of issues. 
You should have your labs checked to see how your liver function 
is. You should also discuss with them the positive lab value for 
TTG, which could potentially mean that you have a risk of having 
celiac disease. We do not feel that you have active problems 
consistent with celiac disease, so you should not worry, but we 
want you to be aware that this test was positive. 

You also developed R scapula pain while in the hospital. We felt 
that this was most likely a muscular injury causing pinched 
nerve symptoms. You should ask your PCP to schedule outpatient 
physical therapy for you to address this problem. 

You also developed a rash which we felt was likely due to 
hypersensitivity of your skin to detergent or soap. You can use 
soothing anti-itch lotions at home to address this.

We wish you all the best.

Sincerely,
Your care team at ___
 
Followup Instructions:
___